US07829707B2
(b) 1-(2-Isopropoxyethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
The title compound (0.17 g, 23%) was prepared in accordance with the general method B using 3-[(2-isopropoxyethyl)amino]-1H-pyrrole-2-carboxylic acid ethyl ester (0.7 g, 2.91 mmol) and ethoxycarbonyl isothiocyanate (0.40 mL, 3.50 mmol).

reactant | 3-[(2-isopropoxyethyl)amino]-1H-pyrrole-2-carboxylic acid ethyl ester | 2.91 mmol, 0.7 g | C(C)OC(=O)C=1NC=CC1NCCOC(C)C | C12H20N2O3
reactant | ethoxycarbonyl isothiocyanate | 3.50 mmol, 0.40 mL | C(C)OC(=O)N=C=S | C4H5NO2S
product | 1-(2-Isopropoxyethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.17 g, 23% | C(C)(C)OCCN1C(NC(C2=C1C=CN2)=O)=S | C11H15N3O2S
